data/oMe_Silver.jsonl
{"reaction_id": "NG-005_1-C(C)(C)C_2-CC_3-c1ccc(OC)cc1","name": "Acid-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(C(C)(C)C)C=O","C(CC)(c1ccc(OC)cc1)=O"],"products_smiles": ["C(CC)(c1ccc(OC)cc1)=C(C=O)C(C)(C)C"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)=C(O)CC","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity and facilitating enol formation via resonance-stabilized cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(c1ccc(OC)cc1)=[OH+]","rationale": "Protonation of the second carbonyl increases its electrophilicity, making it more susceptible to nucleophilic attack by the enol."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC)(c1ccc(OC)cc1)(O)C(C=[OH+])C(C)(C)C","rationale": "The nucleophilic α-carbon of the enol attacks the protonated carbonyl, favored by strong electrophile activation and conjugation potential."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC)(c1ccc(OC)cc1)(O)C(C=O)C(C)(C)C","rationale": "Proton transfer restores the neutral β-hydroxyketone, stabilizing the intermediate through hydrogen bonding and resonance."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(c1ccc(OC)cc1)([OH2+])C(C=O)C(C)(C)C","rationale": "Protonation of the β-hydroxy group converts it into a better leaving group (water) under acidic conditions."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CC)(c1ccc(OC)cc1)=C(C=O)C(C)(C)C","rationale": "Loss of water forms a conjugated α,β-unsaturated carbonyl, thermodynamically favored due to extended π-system stabilization."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, while the other is protonated to enhance electrophilicity. The enol attacks the activated carbonyl, forming a β-hydroxyketone intermediate, which then undergoes acid-catalyzed dehydration to yield the α,β-unsaturated carbonyl product."}
{"reaction_id": "NR-128_1-C(C)(C)C","name": "Kucherov Reaction","level": "medium","reactants_smiles": ["C(C)(C)CC#C"],"products_smiles": ["C(C)(C)CC(=O)C"],"conditions": "O, [H+]","mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C)(C)C[C+]=C","rationale": "Protonation of the alkyne generates a more electrophilic vinyl cation, stabilized by adjacent substituents and resonance, facilitating subsequent nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)CC(=C)[OH2+]","rationale": "Water, abundant under acidic conditions, attacks the electrophilic carbocation center, forming a protonated enol intermediate due to oxygen’s nucleophilicity."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC(O)=C","rationale": "Deprotonation of the oxonium species restores neutrality, yielding the enol form, which is less stable than the keto tautomer."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC(=[OH+])C","rationale": "Protonation at the enol oxygen increases the electrophilicity of the adjacent carbon, priming the system for tautomerization to the keto form."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC(=O)C","rationale": "Deprotonation of the protonated carbonyl yields the thermodynamically favored ketone, driven by strong C=O bond formation and resonance stabilization."}],"description": "In the acid-catalyzed Kucherov reaction, an alkyne undergoes electrophilic hydration to yield a ketone via enol intermediates. Protonation activates the triple bond toward nucleophilic attack by water, followed by tautomerization driven by the thermodynamic stability of the carbonyl group."}
